US07662832B2
7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine hydrochloride
1-Methyl-1-propenyl magnesium bromide (0.5M in tetrahydrofuran solution; 112 ml) was slowly added at −78° C. to a solution of 2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-3-nitropyridine (4.8 g, 18.8 mmol) prepared in Preparation 20 in anhydrous tetrahydrofuran (150 ml). The reaction mixture was stirred for 4 hours at −20° C. 20% ammonium chloride solution was added to the reaction mixture, which was then extracted with ethyl acetate. The separated organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/n-hexane=1/1, v/v). The resulting product was dissolved in ethyl acetate, saturated with hydrochloric acid gas, and then filtered to give 1.3 g of the titled compound as yellow solid.

reactant | 1-Methyl-1-propenyl magnesium bromide | 0.5M, 112 ml | CC(=CC)[Mg]Br
reactant | 2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-3-nitropyridine | 18.8 mmol, 4.8 g | C1N(CCC2=CC=CC=C12)C1=NC=CC=C1[N+](=O)[O-] | C14H13N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine hydrochloride | 1.3 g | Cl.C1N(CCC2=CC=CC=C12)C=1N=CC=C2C1NC(=C2C)C | InChI=1S/C18H19N3.ClH/c1-12-13(2)20-17-16(12)7-9-19-18(17)21-10-8-14-5-3-4-6-15(14)11-21;/h3-7,9,20H,8,10-11H2,1-2H3;1H
